US05714487
(7SR,8aSR)-7-Methoxycarbonyl-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazin-1-one
A mixture of 40.0 g (140 mmol) of 7-methoxycarbonyl-2-phenylmethyl-1,2,3,4,8,8a-hexahydro-pyrrolo[1,2-a]pyrazin-1-one (Preparation 8) and 10 g of 5% Pd on charcoal in 600 mL of ethyl acetate was shaken in a Parr apparatus under 50 psi of hydrogen gas for 6.5 h. The mixture was filtered through Celite, and the filtrate was evaporated to give 38.4 g (95%) of the title compound. 13C NMR (CDCl3): δ 31.8, 41.4, 44.8, 46.5, 49.6, 52.1, 55.2, 64.0, 127.5, 128.1, 128.7, 128.8, 136.6, 169.6, 174.8. HRMS calcd for C16 H22N2O3 (MH+): 289.1552, found: 289.1549.

reactant | 7-methoxycarbonyl-2-phenylmethyl-1,2,3,4,8,8a-hexahydro-pyrrolo[1,2-a]pyrazin-1-one | 140 mmol, 40.0 g | COC(=O)C=1CC2N(CCN(C2=O)CC2=CC=CC=C2)C1 | C16H18N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on charcoal | 10 g | [Pd] | Pd
product | (7SR,8aSR)-7-Methoxycarbonyl-2-phenylmethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazin-1-one | 38.4 g, 95% | COC(=O)C1CC2N(CCN(C2=O)CC2=CC=CC=C2)C1 | C16H20N2O3
